US08080552B2
A solution of 162 mg (0.732 mmol) 4-chloro-3-trifluoromethyl-phenyl isocyanate in 3 ml THF was added within 5 min. drop by drop at 0° C. to a solution of 184 mg (0.732 mmol) 2-fluoro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenylamine and stirring continued at r.t. overnight. The reaction mixture was evaporated and treated with 10 ml ether. Isolation of the precipitate gave 140 mg (40%) 1-(4-chloro-3-trifluoromethyl-phenyl)-3-[2-fluoro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenyl]-urea.

reactant | 4-chloro-3-trifluoromethyl-phenyl isocyanate | 0.732 mmol, 162 mg | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | 2-fluoro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenylamine | 0.732 mmol, 184 mg | FC1=C(C=CC(=C1)OC1=NC(=NC=C1)SC)N | C11H10FN3OS
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-(4-chloro-3-trifluoromethyl-phenyl)-3-[2-fluoro-4-(2-methylsulfanyl-pyrimidin-4-yloxy)-phenyl]-urea | 140 mg, 40% | ClC1=C(C=C(C=C1)NC(=O)NC1=C(C=C(C=C1)OC1=NC(=NC=C1)SC)F)C(F)(F)F | C19H13ClF4N4O2S
